### PR TITLE
[Merged by Bors] - feat(Analysis/SpecialFunctions): images of Ioi/Ici/Icc/Ico/Ioc/Ioo/uIcc under exp and log

### PR DESCRIPTION
**Pull request by teorth**
Add `image_exp_Ioi`, `image_exp_Ici`, `image_log_Ioi`, `image_log_Ici` as `simp` lemmas to compute the image of `Set.Ici a` and `Set.Ioi a` under `Real.exp` and `Real.log`.  Also added similar lemmas for bounded intervals.

---

The initial code was human generated; an AI agent was used to help proofread and refactor the code subsequently.

- [x] depends on: #41130

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Analysis/SpecialFunctions/Exp.lean [hunk 1]
```diff
@@ -319,6 +319,16 @@ theorem coe_comp_expOrderIso : (↑) ∘ expOrderIso = exp :=
 theorem range_exp : range exp = Set.Ioi 0 := by
   rw [← coe_comp_expOrderIso, range_comp, expOrderIso.range_eq, image_univ, Subtype.range_coe]
 
+@[simp]
+theorem image_exp_Ioi (a : ℝ) : exp '' Ioi a = Ioi (exp a) := by
```
Comment (felixpernegger) [inline Mathlib/Analysis/SpecialFunctions/Exp.lean]: Couldnt these lemmas be generalised that whenever a function is continuous, eventually monotone and unbounded, Ioi etc gets mapped to Ioi

Comment (teorth) [reply Mathlib/Analysis/SpecialFunctions/Exp.lean]: Fair enough - and `Continuous.surjective` comes close to establishing this.  I could try to expand `Topology.Order.IntermediateValue` to generate a bunch of lemmas like this in a separate PR.

Meanwhile, these specific lemmas already have two-line proofs, and there is precedent for having specific image lemmas for specific functions, e.g., `Set.image_inv_Ioi`, `Set.image_const_mul_Ioi`, etc..  Perhaps we could have both the specific lemmas and the general ones, even if the specific lemmas are proven by an alternate route?

Comment (felixpernegger) [reply Mathlib/Analysis/SpecialFunctions/Exp.lean]: Sure that sounds reasonable, especially if the specific lemmas have applications

Comment (teorth) [reply Mathlib/Analysis/SpecialFunctions/Exp.lean]: Actually, I've gone ahead and implemented the general lemmas at #41130 and then used that to give shorter proofs here (and as a bonus, also develop the bounded interval analogues).

**Comment by themathqueen** [comment]
When you add a "depends on" in the PR description, you should do `- [ ] depends on: #prnumber` (you forgot the `[ ]`) so the bot can register it as a dependency.

**Comment by themathqueen** [comment]
Please merge master

**Comment by teorth** [comment]
-awaiting-author

File: Mathlib/Analysis/SpecialFunctions/Exp.lean [hunk 2]
```diff
@@ -319,6 +319,46 @@ theorem coe_comp_expOrderIso : (↑) ∘ expOrderIso = exp :=
...
+  continuous_exp.image_Ioo_of_strictMono exp_strictMono
+
+@[simp]
+theorem image_exp_uIcc (a b : ℝ) : exp '' uIcc a b = uIcc (exp a) (exp b) :=
+  continuous_exp.continuousOn.image_uIcc_of_monotoneOn (exp_strictMono.monotone.monotoneOn _)
+
+@[simp]
+theorem image_exp_Iio (a : ℝ) : exp '' Iio a = Ioo 0 (exp a) := by
+  rw [← coe_comp_expOrderIso, image_comp, expOrderIso.image_Iio, image_subtype_val_Ioi_Iio]
+  rfl
```
Comment (Ruben-VandeVelde) [inline Mathlib/Analysis/SpecialFunctions/Exp.lean]:
```suggestion
  rw [← coe_comp_expOrderIso, image_comp, expOrderIso.image_Iio, image_subtype_val_Ioi_Iio,
    Function.comp_apply]
```

File: Mathlib/Analysis/SpecialFunctions/Exp.lean [hunk 3]
```diff
@@ -319,6 +319,46 @@ theorem coe_comp_expOrderIso : (↑) ∘ expOrderIso = exp :=
...
+
+@[simp]
+theorem image_exp_Iic (a : ℝ) : exp '' Iic a = Ioc 0 (exp a) := by
+  rw [← coe_comp_expOrderIso, image_comp, expOrderIso.image_Iic, image_subtype_val_Ioi_Iic]
+  rfl
```
Comment (Ruben-VandeVelde) [inline Mathlib/Analysis/SpecialFunctions/Exp.lean]:
```suggestion
  rw [← coe_comp_expOrderIso, image_comp, expOrderIso.image_Iic, image_subtype_val_Ioi_Iic,
    Function.comp_apply]
```

**Review by Ruben-VandeVelde — APPROVED** [review]
maintainer delegate

**Review by j-loreaux — COMMENTED** [review]
Thanks!

bors merge
